US07432281B2
4-((E)-3,3-Dimethyl-but-1-enyl)-N-(3-methoxy-phenyl)-benzamide
To a cooled (0° C.) and well stirred suspension of 4-(3,3-dimethyl-but-1-enyl)-benzoic acid (1.5 g, 7.34 mMol) in a mixture of EtOAc and DMF (1:1, 25 mL) is added oxalyl chloride (0.364 g, 4.04 mMol) slowly drop-wise and the mixture is agitated for one hour. m-Anisidine (1.36 g, 11.01 mMol) is then added in EtOAc (5 mL) and the mixture is stirred for 6.0 hours before being quenched with saturated potassium carbonate solution. The precipitate is filtered, washed with water and vacuum dried to obtain the title compound.

reactant | 4-(3,3-dimethyl-but-1-enyl)-benzoic acid | 7.34 mMol, 1.5 g | CC(C=CC1=CC=C(C(=O)O)C=C1)(C)C | C13H16O2
reactant | oxalyl chloride | 4.04 mMol, 0.364 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | m-Anisidine | 11.01 mMol, 1.36 g | COC1=CC(=CC=C1)N | C7H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 4-((E)-3,3-Dimethyl-but-1-enyl)-N-(3-methoxy-phenyl)-benzamide | CC(/C=C/C1=CC=C(C(=O)NC2=CC(=CC=C2)OC)C=C1)(C)C | C20H23NO2
